US04489087
A solution 1-(hexan-3-on-1-yl)imidazole (1.00 g) was stirred with ethane-1,2-dithiol (1 ml) at room temperature and then 1 ml of methanesulfonic acid was added in portions with cooling. After 15 minutes, 20 ml of methylene chloride was added and the mixture stirred for 4 hours. The reaction mixture was poured into 300 ml of methylene chloride which solution was washed with 3×100 ml 5% sodium hydroxide, 1×100 ml water and the organic layer dried over magnesium sulfate. Removal of the solvent afforded an oil which was chromatographed on silica gel, eluting with hexane, 50% hexane/ethyl acetate and ethyl acetate to yield 1.2 g of 1-[2-(2-propyl-1,3-dithiolan-2-yl)ethyl]imidazole. The residue was taken up in a small volume of ether and treated with ethereal hydrogen chloride until precipitation was complete. The resulting precipitate was filtered off and recrystallized from methanol/ethyl acetate, to give 1-[2-(propyl-1,3-dithiolan-2-yl)ethyl]imidazole hydrochloride, m.p. 118° -121° C.

reactant | 1-(hexan-3-on-1-yl)imidazole | 1.00 g | C(CC(CCC)=O)N1C=NC=C1 | C9H14N2O
reactant | ethane-1,2-dithiol | 1 ml | C(CS)S | C2H6S2
reactant | methanesulfonic acid | 1 ml | CS(=O)(=O)O | CH4O3S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-propyl-1,3-dithiolan-2-yl)ethyl]imidazole | 1.2 g | C(CC)C1(SCCS1)CCN1C=NC=C1 | C11H18N2S2
